US06005115
57.9 g of N-[[[2-[[[2-[(diaminomethylene)amino]-4-thiazolyl]methyl]thio]ethyl]amino]methylene]-4-bromo-benzenesulfonamide isopropanolate are dissolved in 87 ml of methanol at a temperature ranging between 40 and 50° C. The resultant solution is allowed to stand till a certain degree of turbidness fades away, then filtered and poured onto 550 ml of water at 0-5° C. for 4 hours under energic stirring. After the addition is completed, the mixture is stirred for further 4 hours at 0-5° C. and filtered. The filtrate is washed with abundant water and dried in vacuo at a temperature below 30° C. to yield 49.9 g of ebrotidine Form A.

reactant | N-[[[2-[[[2-[(diaminomethylene)amino]-4-thiazolyl]methyl]thio]ethyl]amino]methylene]-4-bromo-benzenesulfonamide isopropanolate | 57.9 g | C(C)(C)[O-].NC(N)=NC=1SC=C(N1)CSCCNC=NS(=O)(=O)C1=CC=C(C=C1)Br
solvent | methanol | 87 ml | CO | CH4O
product | ebrotidine | 49.9 g | C1=CC(=CC=C1S(=O)(=O)/N=C/NCCSCC2=CSC(=N2)NC(=N)N)Br | C14H17BrN6O2S3
